US04634716
N-[1-(S)-Carboxy-3-phenylpropyl]-L-alanyl-(S)-2-pyrrolidineacetic acid
A solution of N-(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-(S)-2-pyrrolidineacetic acid ethyl ester (87 mg; 0.21 mmol) in 1 ml of ethanol and 1 ml of 1.0N sodium hydroxide was stirred overnight at room temperature. The mixture was concentrated under reduced pressure to remove ethanol, neutralized with dilute hydrochloric acid and poured onto a 80×12 mm column of Dowex 50W×4 ion exchange resin (H+ cycle). The column was eluted with 200 ml water followed by 100 ml of 2.5% pyridine in water. Evaporation under reduced pressure of the aqueous pyridine eluate gave the product desired as a white crystalline solid (72 mg) ms M+ 362; TLC Rf 0.57-silica gel 4:1:1-n-butanol:water:acetic acid;

reactant | N-(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-(S)-2-pyrrolidineacetic acid ethyl ester | 0.21 mmol, 87 mg | C(C)OC(C[C@H]1N(CCC1)C([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C23H34N2O5
reactant | 1-n-butanol | C(CCC)O | C4H10O
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.0N, 1 ml | [OH-].[Na+]
product | N-[1-(S)-Carboxy-3-phenylpropyl]-L-alanyl-(S)-2-pyrrolidineacetic acid | C(=O)(O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@@H](CCC1)CC(=O)O | C19H26N2O5
